US04782094
One hundred grams of 3-phenoxybenzyl 2-(3-chloro-4-ethoxyphenyl)-2-methylpropyl ether and 25 g of potassium hydroxide were added to 300 ml of 1,3-dimethyl-2-imidazolidinone (to be abbreviated as DMI hereinafter), and the mixture was stirred at 150° C. for hours. The reaction mixture was cooled to room temperature, poured into water, acidified with a concentrated hydrochloric acid, and extracted with benzene. The benzene solution was washed with water, and dried. Benzene was evaporated under reduced pressure. The resulting oily residue was purified by column chromatography (silica gel; eluent: benzene) to give 45.6 g 3-phenoxybenzyl 2-(3-chloro-4-hydroxyphenyl)-2-methylpropyl ether having a melting point of 68° to 69° C.

reactant | 3-phenoxybenzyl 2-(3-chloro-4-ethoxyphenyl)-2-methylpropyl ether | One hundred grams | ClC=1C=C(C=CC1OCC)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C25H27ClO3
reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | 1,3-dimethyl-2-imidazolidinone | 300 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-phenoxybenzyl 2-(3-chloro-4-hydroxyphenyl)-2-methylpropyl ether | 45.6 g | ClC=1C=C(C=CC1O)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C23H23ClO3
